US06900216B2
Oxalyl chloride (1 ml) was added dropwise under nitrogen at 0° C. to a stirred suspension of 7-methoxybenzo[b]thiophene-2-carboxylic acid (1.9 g) in dichloromethane (25 ml), then dimethylformamide (2 drops) was added and the mixture was stirred at ambient temperature for 4.5 hours. N,O-Dimethylhydroxylamine hydrochloride (1 g), triethylamine (3.2 ml) and dichloromethane (5 ml) were added, the mixture was stirred at ambient temperature for 19 hours, then it was poured into water (60 ml). The product was extracted into dichloromethane (2×30 ml), the combined extracts were dried (MgSO4), and the solvent was removed in vacuo. The residue was purified by flash chromatography over silica using dichloromethane as eluant. Appropriate fractions were combined and the solvent removed in vacuo to give N,7-dimethoxy-N-methylbenzo[b]thiophene-2-carboxamide (1.5 g) as a gum which was used without further purification.

reactant | Oxalyl chloride | 1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-methoxybenzo[b]thiophene-2-carboxylic acid | 1.9 g | COC1=CC=CC2=C1SC(=C2)C(=O)O | C10H8O3S
reactant | N,O-Dimethylhydroxylamine hydrochloride | 1 g | Cl.CNOC
reactant | triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | 60 ml | O | H2O
product | N,7-dimethoxy-N-methylbenzo[b]thiophene-2-carboxamide | 1.5 g | CON(C(=O)C1=CC2=C(S1)C(=CC=C2)OC)C | C12H13NO3S
